US07605118B2
At 0° C., a solution of 1-cyclooct-2-enylethanol (1.4 g, 9 mmol) in dichloromethane (20 ml) was added to pyridiniumchlorochromate (2.35 g, 11 mmol) in dichloromethane (30 ml). The resulting mixture was stirred at 20° C. during 3.5 h and filtered through Celitee ®. The filtrate was concentrated and the crude product purified by flash chromatography (hexane/Et2O 6:1) to give 0.7 g of 1-cyclooct-2-enylethanone (55%).

reactant | 1-cyclooct-2-enylethanol | 9 mmol, 1.4 g | C1(C=CCCCCC1)C(C)O | C10H18O
reactant | pyridiniumchlorochromate | 11 mmol, 2.35 g | [Cr](=O)(=O)([O-])Cl.[NH+]1=CC=CC=C1
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-cyclooct-2-enylethanone | 0.7 g, 55% | C1(C=CCCCCC1)C(C)=O | C10H16O
